2199-04-23 07:18:00 Physician Resident Progress Note
Chief Complaint: 69 yo F with CAD, CHF, Afib, re-admitted with SOB,
   leukocytosis
   24 Hour Events:
   -Started on esmolol gtt, limited by BP in 80s, MAP ~65.  HR 115s, still
   c/o SOB. Tried lopressor instead HR decreased and BP stable after IV
   dose, switched to PO
   -Got small dose lasix, didn't respond to 10mg IV, started on lasix gtt
   with 20mg IV bolus.  UOP picked up.  HR settled in low 100s, MAPs in
   60s.  Got 3rd dose of metoprolol this am, MAP decreased to 56, lasix
   gtt held.  Changed metoprolol back to home dose of 12.5 [**Hospital1 **]
   -cardiac enzymes peaked and are trending down.
   -got zofran for nausea
   -Got chest CT, read pending
   Allergies:
   Sulfa (Sulfonamides)
   fevers;
   Isoniazid
   fevers;
   Last dose of Antibiotics:
   Piperacillin - [**2199-4-22**] 01:39 AM
   Vancomycin - [**2199-4-22**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2199-4-23**] 02:00 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2199-4-22**] 07:34 AM
   Pantoprazole (Protonix) - [**2199-4-22**] 07:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-4-23**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.6
C (96.1
   HR: 108 (100 - 129) bpm
   BP: 93/55(65) {78/23(43) - 119/84(89)} mmHg
   RR: 17 (10 - 40) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 80 kg (admission): 34.5 kg
   Height: 25 Inch
             Total In:
                                                                  2,466 mL
                                                                    281 mL
   PO:
                                                                    240 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  2,226 mL
                                                                    181 mL
   Blood products:
   Total out:
                                                                    893 mL
                                                                    740 mL
   Urine:
                                                                    893 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,573 mL
                                                                   -459 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   458 K/uL
   9.0 g/dL
   144 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.4 mEq/L
   13 mg/dL
   109 mEq/L
   141 mEq/L
   29.0 %
   16.0 K/uL
        [image002.jpg]
                             [**2199-4-22**]  12:15 AM
                             [**2199-4-22**]  04:17 AM
                             [**2199-4-22**]  12:38 PM
                             [**2199-4-22**]  08:41 PM
                             [**2199-4-23**]  06:11 AM
   WBC
   11.6
   16.0
   Hct
   31.5
   29.0
   Plt
   407
   458
   Cr
   0.6
   0.5
   1.0
   1.0
   TropT
   0.41
   0.37
   Glucose
   114
   111
   136
   144
   Other labs: PT / PTT / INR:36.5/46.2/3.9, CK / CKMB /
   Troponin-T:179/22/0.37, ALT / AST:15/34, Alk Phos / T Bili:81/0.3,
   Differential-Neuts:87.8 %, Band:0.0 %, Lymph:7.0 %, Mono:4.9 %, Eos:0.3
   %, Lactic Acid:3.1 mmol/L, LDH:326 IU/L, Ca++:8.3 mg/dL, Mg++:1.8
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   69 y.o.f. with CAD, sarcoidosis, CHF, who presents with SOB and
   leukocytosis
   # SOB
  CHF vs PNA most likely etiology.  CXR without definitive
   answer.  CT scan done but read is pending
   -          Lasix gtt stopped.  Will hold off for now given  BP on the
   low side, though MAP >65
   -          Stop vanco/zosyn since CT doesn
t show consolidation or
   evidence of PNA.
   # Leukocytosis
 C.diff positive- likely from recent levofloxacin use.
   Likely clear source of leukocytosis.
   -          Blood/Urine cx NGTD.
   -          C.diff positive.  Will start PO vanco given ICU status,
   sepsis at admission, and WBC >15K.  .
   # Hypotension
  MAPs maintaing >60.
   -          Likely patient has decreased forward flow secondary to
   volume overload further exacerbating systolic dysfunction although
   could also be from infection
   -          Needs maximal LV fill time; start digoxin load and
   maintenance for improved HR control since patient
s BP not tolerating
   BBlocker
   -          PO vanco for infection
   -          Decrease stress dose steroids to hydrocort 25 mg IV Q12
   # Cardiac
   ISCHEMIA
 Symptoms and EKG not c/w ACS.  Likely demand ischemia in
   setting of hypotension.
   -          ASA
   -          Trop peak at 0.41; patient may need cath after stabilization
   to evaluate coronary anatomy given h/o MI and no PCI
   -          hold BB for now given hypotension.
   -          Statin
   RHYTHM
 Afib with RVR, likely in the setting of hypotension and
   sepsis.
   -          Telemetry
   -          Start digoxin for rate control; hold on bblocker
   -          Hold coumadin as supratherapeutic
   PUMP
 EF 20-30
s from prior MI
   -          Cont diuresis with lasix gtt to improve forward flow in the
   setting of systolic dysfunction. Goal -1 to -2L
   -          Cont ASA, statin.  Once BP [**Last Name (LF) 2167**], [**First Name3 (LF) 178**] need ACE/[**Last Name (un) 239**] and
   maybe need to consider restarting bblocker
   # DM
   -          HISS
   -          Diabetic diet
   # Sarcoidosis
 Chronic.  neurosarcoid.
   -          High dose steroids for now
   -          CT scan read pending to evaluate for pulmonary sarcoid;
   although no document h/o pulmonary sarcoid
   ICU Care
   Nutrition: Diabetic Diet
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2199-4-21**] 10:53 PM
   22 Gauge - [**2199-4-22**] 08:08 PM
   Prophylaxis:
   DVT: coumadin- supratherapeutic INR
   Stress ulcer: on ppi
   VAP:  none needed
   Comments: contact precautions
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU until MAP/HR improves.  Resp status improving
   ------ Protected Section ------
   CT scan c/w bilateral effusion R>L.  Called [**Hospital3 2180**]
s and
   confirmed that patient had a small right pleural effusion on CXR at the
   end of [**Month (only) 1563**].  This seems consistent with a CHF exacerbation and
   worsening R pleural effusion.  Will hold off on thoracentesis at this
   time since patient had known pleural effusion, and is currently
   afebrile, and we have a known infectious source.  O2 saturations fine
   on 2L .  Will cont to monitor.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2080**] [**Name8 (MD) **], MD
   on:[**2199-4-23**] 14:57 ------

2199-04-23 11:38:00 Physician Attending Progress Note
Chief Complaint: hypotension, afib with rvr
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   69 yo woman with CAD adm with afib, hypotension, leukocytosis
   24 Hour Events:
   Did not tolerate esmolol (hypotensive) but rate improved with
   lopressor. Lasix drip overnight, stopped for low MAP.
   C. Diff tox +
   Resp status improved.
   Allergies:
   Sulfa (Sulfonamides)
   fevers;
   Isoniazid
   fevers;
   Last dose of Antibiotics:
   Piperacillin - [**2199-4-22**] 01:39 AM
   Piperacillin/Tazobactam (Zosyn) - [**2199-4-23**] 02:00 AM
   Vancomycin - [**2199-4-23**] 10:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   protonix, ISS, asa, hydrocortisone 50 IV q6, metoprolol 12.5 PO bid,
   vit D
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-4-23**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 106 (100 - 120) bpm
   BP: 82/56(61) {73/23(43) - 102/78(75)} mmHg
   RR: 12 (10 - 34) insp/min
   SpO2: 97% on 2L NC
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 80 kg (admission): 34.5 kg
   Height: 25 Inch
             Total In:
                                                                  2,466 mL
                                                                    794 mL
   PO:
                                                                    240 mL
                                                                    400 mL
   TF:
   IVF:
                                                                  2,226 mL
                                                                    394 mL
   Blood products:
   Total out:
                                                                    893 mL
                                                                    970 mL
   Urine:
                                                                    893 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,573 mL
                                                                   -176 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, appears much
   more comfortable
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), elevated JVP
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anterior), dull at right 1/2 up
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+, left forearm edema at IV site- looks
   infiltrated
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): all, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   458 K/uL
   144 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.4 mEq/L
   13 mg/dL
   109 mEq/L
   141 mEq/L
   29.0 %
   16.0 K/uL
        [image002.jpg]
                             [**2199-4-22**]  12:15 AM
                             [**2199-4-22**]  04:17 AM
                             [**2199-4-22**]  12:38 PM
                             [**2199-4-22**]  08:41 PM
                             [**2199-4-23**]  06:11 AM
   WBC
   11.6
   16.0
   Hct
   31.5
   29.0
   Plt
   407
   458
   Cr
   0.6
   0.5
   1.0
   1.0
   TropT
   0.41
   0.37
   Glucose
   114
   111
   136
   144
   Other labs: PT / PTT / INR:31.2/37.7/3.2, CK / CKMB /
   Troponin-T:179/22/0.37, ALT / AST:15/34, Alk Phos / T Bili:81/0.3,
   Differential-Neuts:87.8 %, Band:0.0 %, Lymph:7.0 %, Mono:4.9 %, Eos:0.3
   %, Lactic Acid:3.1 mmol/L, LDH:326 IU/L, Ca++:8.3 mg/dL, Mg++:1.8
   mg/dL, PO4:3.8 mg/dL
   Imaging: CT with large right pleural effusion, no significant
   parenchymal consolidation.
   Microbiology: CDiff +
   Blood, urine cx NGTD
   Assessment and Plan
   Afib with RVR
   Improved with lopressor but still tachycardic.
   Low EF, normal renal function.
   Start digoxin.
   Resp failure: CHF, pleural effusion, afib. Unlikely pna- had been
   treated for CAP or nosocomial pna but chest CT not suggestive of any
   pna.
   Hypotension recurred overnight. Cardiogenic- poor chronotropy as well
   as poor filling with rapid rate. CDiff sepsis.
   Hold off on further diuresis.
   Pleural effusion with unclear chronicity.
   Obtain info from [**Hospital3 2129**]. INR high. Will hold off on tap
   considering likelihood of CHF etiology. If new, then will plan for tap.
   CDiff: transition to PO Vanco.
   Adrenal insufficiency- [**Last Name (un) 2170**]. Only on prednisone 10 PO qd as outpatient.
   Will bring back to her outpatient dose, but use IV given unclear [**Name2 (NI) 2171**]
   absorption.
   Left UE- elevate, symptomatic relief and resite if necessary.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2199-4-21**] 10:53 PM
   22 Gauge - [**2199-4-22**] 08:08 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill given continued hyptension and rapid
   ventricular rate require titration of rate control meds.

2199-04-24 07:57:00 Physician Resident Progress Note
Chief Complaint: 69 y.o.f. with CAD, neuro-sarcoidosis, CHF, who
   presents with SOB found to have c.diff now with difficult to control
   Afib with RVR
   24 Hour Events:
 SPUTUM CULTURE - At [**2199-4-23**] 11:00 AM
 EKG - At [**2199-4-24**] 06:57 AM
   - C. diff positive, started on PO vanco
   - Dc'd vanco and zosyn IV
   - Dig loaded for heart rate control with low BP. Lopressor initially
   dc'd but HR persistently in the 120s. Low dose lopressor restarted at
   6pm, given extra dose given persistent high HR with rates down to low
   100s and stable BP
   - Hydrocort decreased to 25 [**Hospital1 **] with plan for down-titration
   - [**Hospital3 2210**] radiology contact[**Name (NI) **]  -> patient has had large effusion in the
   past
   - No acute thoracentesis given high INR- and chronic pleural affesion
   - Lasix gtt held given low BP, UOP trailed off during the evening,
   decided to work on rate on control as above and continued to hold lasix
   - BP during the night with SBPs in the low-mid 80s, MAPs 55-60, no
   intervention
   Allergies:
   Sulfa (Sulfonamides)
   fevers;
   Isoniazid
   fevers;
   Last dose of Antibiotics:
   Piperacillin - [**2199-4-22**] 01:39 AM
   Vancomycin - [**2199-4-23**] 10:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2199-4-23**] 11:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-4-24**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.5
C (97.7
   HR: 111 (104 - 129) bpm
   BP: 100/56(66) {73/42(52) - 102/5,036(77)} mmHg
   RR: 14 (9 - 25) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 80 kg (admission): 34.5 kg
   Height: 25 Inch
             Total In:
                                                                  1,543 mL
                                                                    192 mL
   PO:
                                                                    920 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    623 mL
                                                                     42 mL
   Blood products:
   Total out:
                                                                  1,425 mL
                                                                    205 mL
   Urine:
                                                                  1,425 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    118 mL
                                                                    -13 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   Gen: WDWN obese female, NAD, can speak in complete sentences with
   dyspnea
   CV: tachy, irregular   JVP: 10-12cm
   Lungs: bronchial BS at bases; no crackles or wheezes appreciated
   Abd: obese, NT.  Normal BS
   Ext: trace to 1+ BLE edema
   Neuro: A/O x 3
   Labs / Radiology
   501 K/uL
   9.3 g/dL
   129 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.0 mEq/L
   16 mg/dL
   110 mEq/L
   142 mEq/L
   29.9 %
   10.3 K/uL
        [image002.jpg]
                             [**2199-4-22**]  12:15 AM
                             [**2199-4-22**]  04:17 AM
                             [**2199-4-22**]  12:38 PM
                             [**2199-4-22**]  08:41 PM
                             [**2199-4-23**]  06:11 AM
                             [**2199-4-24**]  04:15 AM
   WBC
   11.6
   16.0
   10.3
   Hct
   31.5
   29.0
   29.9
   Plt
   [**Telephone/Fax (3) 2211**]
   Cr
   0.6
   0.5
   1.0
   1.0
   0.9
   TropT
   0.41
   0.37
   Glucose
   114
   111
   136
   144
   129
   Other labs: PT / PTT / INR:32.3/35.4/3.3, CK / CKMB /
   Troponin-T:179/22/0.37, ALT / AST:15/34, Alk Phos / T Bili:81/0.3,
   Differential-Neuts:83.5 %, Band:0.0 %, Lymph:11.3 %, Mono:4.8 %,
   Eos:0.4 %, Lactic Acid:3.1 mmol/L, LDH:326 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   69 y.o.f. with CAD, neuro-sarcoidosis, CHF, who presents with SOB,
   Sepsis found to have c.diff and now with afib with RVR difficult to
   control HR
   # SOB
  CHF vs PNA most likely etiology.  CXR without definitive
   answer.  CT scan done but read is pending
   -          Will hold off on lasix gtt for now given  BP on the low
   side, though MAP >65
   -          O2 status continues to improve.  Satting 92-95% on RA.
   Doesn
t appear completely volume overloaded and primary goal will be
   rate control
   # Leukocytosis
 C.diff positive- likely from recent levofloxacin use.
   -          Blood/Urine cx NGTD.
   -          C.diff positive.  Cont PO vanco for full 14 day course.
   # Cardiac
   ISCHEMIA
 Symptoms and EKG not c/w ACS.  Likely demand ischemia in
   setting of hypotension.
   -          ASA
   -          Trop peak at 0.41; patient may need cath after stabilization
   to evaluate coronary anatomy given h/o MI and no PCI
   -          hold BB for now given hypotension.
   -          Statin
   RHYTHM
 Afib with RVR, likely in the setting of hypotension and
   sepsis.
   -          Telemetry
   -          Digoxin loaded, but not a great effect; likely because RVR
   [**2-9**] sympathetic overdrive.  Will try diltiazem gtt and see if that
   controls HR better without dropping BP as much as metoprolol
   -          would eventually need to switch back to bblocker since
   patient has a reduced EF; though will hold off until BP improves and
   can tolerate
   -          Hold coumadin as supratherapeutic
   PUMP
 EF 20-30
s from prior MI
   -          hold diuresis while trying rate control.  Goal even to
   slightly net negative.
   -          Cont ASA, statin.  Once BP [**Last Name (LF) 2167**], [**First Name3 (LF) 178**] need ACE/[**Last Name (un) 239**] and
   maybe need to consider restarting bblocker
   # Hypotension
  MAPs maintaing >60.
   -          Likely patient has decreased forward flow secondary to
   volume overload further exacerbating systolic dysfunction although
   could also be from infection
   -          Needs maximal LV fill time; rate control as above
   -          PO vanco for infection
   -          stop stress dose steroids.  Re-start prednisone 10 mg daily
   # DM
   -          HISS
   -          Diabetic diet
   # Sarcoidosis
 Chronic.  neurosarcoid.
   -          restart prednisone 10 mg daily
   -          CT scan read pending to evaluate for pulmonary sarcoid;
   although no document h/o pulmonary sarcoid
   ICU Care
   Nutrition: diabetic diet
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2199-4-21**] 10:53 PM
   Prophylaxis:
   DVT: supratherapeutic INR
   Stress ulcer: ppi for GERD
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU care until MAP maintained >60 consistently with HR
   control

2199-04-25 06:41:00 Physician Resident Progress Note
Chief Complaint: 69 y.o.f. with CAD, neuro-sarcoidosis, CHF, who
   presents with SOB found to have c.diff now with difficult to control
   Afib with RVR
   24 Hour Events:
   -Started on dilt gtt, digoxin continued.  HR better controlled 80-100s,
   MAP >65, transitioned off dilt back to PO metoprolol
   -transitioned from IV steroids back to home dose prednisone
   -Pt
s BP did not tolerate re-start of lasix, UOP remains low 15-30cc/hr
   -Persistent 02 requirement, on 2L NC
   Allergies:
   Sulfa (Sulfonamides)
   fevers;
   Isoniazid
   fevers;
   Last dose of Antibiotics:
   Vancomycin - [**2199-4-23**] 10:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2199-4-23**] 11:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2199-4-24**] 08:30 AM
   Other medications:
   ASA
   Digoxin 0.25mg daily
   Docusate
   ISS
   Metoprolol 12.5 PO Q8
   Ondansetron prn
   Senna prn
   Prednisone 10mg
   Simvastatin 80mg
   Vancomycin PO 125mg Q6 daily
   Vitamin D
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unchanged, remains intubated and sedated, rousable
   with turning.
   Flowsheet Data as of  [**2199-4-25**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.7
C (96.2
   HR: 113 (78 - 128) bpm
   BP: 97/64(69) {89/50(59) - 116/80(83)} mmHg
   RR: 21 (11 - 33) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 80 kg (admission): 34.5 kg
   Height: 25 Inch
             Total In:
                                                                  1,681 mL
                                                                    122 mL
   PO:
                                                                  1,490 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    191 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                    860 mL
                                                                    510 mL
   Urine:
                                                                    560 mL
                                                                    210 mL
   NG:
   Stool:
                                                                    300 mL
                                                                    300 mL
   Drains:
   Balance:
                                                                    821 mL
                                                                   -388 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   Gen: WDWN obese female, NAD, pleasant and comfortable
   CV:  irregular   JVP: 10-12cm
   Lungs: bronchial BS at bases; no crackles or wheezes appreciated, not
   tachypneic, appears improved from prior
   Abd: obese, NT.  Normal BS
   Ext: trace to 1+ BLE edema
   Neuro: A/O x 3
   Labs / Radiology
   512 K/uL
   8.9 g/dL
   167 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.2 mEq/L
   16 mg/dL
   108 mEq/L
   141 mEq/L
   28.4 %
   8.4 K/uL
        [image002.jpg]
                             [**2199-4-22**]  12:15 AM
                             [**2199-4-22**]  04:17 AM
                             [**2199-4-22**]  12:38 PM
                             [**2199-4-22**]  08:41 PM
                             [**2199-4-23**]  06:11 AM
                             [**2199-4-24**]  04:15 AM
                             [**2199-4-24**]  12:00 PM
                             [**2199-4-24**]  06:00 PM
                             [**2199-4-25**]  03:48 AM
   WBC
   11.6
   16.0
   10.3
   8.4
   Hct
   31.5
   29.0
   29.9
   28.4
   Plt
   [**Telephone/Fax (3) 2255**]12
   Cr
   0.6
   0.5
   1.0
   1.0
   0.9
   0.6
   TropT
   0.41
   0.37
   Glucose
   114
   111
   136
   144
   129
   172
   153
   167
   Other labs: PT / PTT / INR:22.6/29.8/2.2, CK / CKMB /
   Troponin-T:179/22/0.37, ALT / AST:15/34, Alk Phos / T Bili:81/0.3,
   Differential-Neuts:83.5 %, Band:0.0 %, Lymph:11.3 %, Mono:4.8 %,
   Eos:0.4 %, Lactic Acid:3.1 mmol/L, LDH:326 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Micro: C. diff positive.
   [**4-22**] CT chest:
   IMPRESSION:
   1. Right moderate pleural effusion and small left pleural effusion with
   adjacent bibasilar atelectasis.
   2. Localized area of left upper lobe ground-glass opacity that could
   represent residual edema and/or infection. Followup examination in six
   months
   is necessary to exclude any neoplastic process.
   3. Probable tracheomalacia. If there is a clinical concern then a
   dedicated
   CT trachea should be performed.
   4. Cardiomegaly and extensive coronary artery atherosclerotic
   calcification.
   5. Post-laminectomy changes at the cervicothoracic junction.Spinal
   calcification most likely epidural in location. A cervical spine CT
   and/or
   MRI examination is recommended considering the fact that the patient
   has
   history of neurosarcoidosis of the spine.
   Assessment and Plan
   69 y.o.f. with CAD, neuro-sarcoidosis, CHF, who presents with SOB,
   Sepsis found to have c.diff and now with afib with RVR difficult to
   control HR
   #AF with RVR:  Known long standing AF, went into RVR likley in setting
   of infection/dehydration.  Has been difficult to control thus far,
   limited by hypotension.  Have dig loaded pt, probably a good choice for
   her for rate control in the long term given her CAD and low EF as well
   as her sedentary lifestyle in setting of neurosarcoid.  Unlikley to
   have much effect in short term especially due to sympathetic drive from
   active infection.
   -continue dig, follow levels, may need to decrease as on high dose
   -Off dilt gtt, initially responded and was switched back to PO BB.
   -small IVF boluses, follow UOP and HR for response.
   -continue telemetry
   -Had held coumadin for supratherapeutic INR, now 2.2, restart at home
   dose 4mg, monitor closely as pt now on dig and may need to be
   re-dosed.
    # SOB
Current theory is that pt developed c. diff, became dehydrated
   and went into AF with RVR exacerbating CHF.  No evidence for PNA.
   Currently pt appears less dyspneic after lasix gtt, total picture now
   is actually that she is likely volume down given diarrhea, hypotension
   and low UOP.  Pt has pleural effusions but after investigating OSH
   records these appear to be chronic, less appearance of pulmonary edema
   on CXR.
   -          Will hold off on lasix gtt for now given  BP on the low side
   and pt likely dry.  Will try small IVF boluses.
   -          O2 status stable.
   # Leukocytosis
 C.diff positive- likely from recent levofloxacin use.
   -          Blood/Urine cx NGTD.
   -          C.diff positive.  Cont PO vanco for full 14 day course.
   # Cardiac
   ISCHEMIA
 Symptoms and EKG not c/w ACS.  Likely demand ischemia in
   setting of hypotension.
   -          ASA
   -          Trop peak at 0.41; patient may need cath after stabilization
   to evaluate coronary anatomy given h/o MI and no PCI
   -          hold BB for now given hypotension.
   -          Statin
   PUMP
 EF 20-30
s from prior MI
   -          hold diuresis while trying rate control.  Goal even to
   slightly net negative.
   -          Cont ASA, statin, BB  Once BP stablizies, consider ACE/[**Last Name (un) 239**]
   # Hypotension
  MAPs maintaing >60.
   -          Likely patient has decreased forward flow secondary to
   volume overload further exacerbating systolic dysfunction although
   could also be from infection
   -          Needs maximal LV fill time; rate control as above
   -          PO vanco for infection
   -          stopped stress dose steroids.  Re-startedprednisone 10 mg
   daily
   #Anemia: Microcytic anemia, thrombocytosis, iron studies all c/w fe
   deficient anemia.
   -start PO iron, titrate up as tolerated
   # DM
   -          HISS
   -          Diabetic diet
   # Sarcoidosis
 Chronic.  neurosarcoid.
   -          restart prednisone 10 mg daily
   -          CT scan without evidence for pulmonary sarcoid.
   ICU Care
   Nutrition: diabetic diet
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2199-4-21**] 10:53 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: ppi for GERD
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: HR better controlled today on PO meds, BP stable with
   MAPs >65, call out to [**Hospital1 2259**] service